US04814494
In the like manner as Example 1, 26.4 g of p-methylphenylacetaldehyde as an aldehyde and 2.3 g of sulfuric acid were used. The oxidation was done by using 125 g of 12% aqueous solution of sodium hypochlorite at temperatures of -10° to -12° C., which was followed by the hydrogenation to obtain p-methylphenylacetic acid.

reactant | p-methylphenylacetaldehyde | 26.4 g | CC1=CC=C(C=C1)CC=O | C9H10O
reactant | sulfuric acid | 2.3 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hypochlorite | Cl[O-].[Na+]
product | p-methylphenylacetic acid | CC1=CC=C(C=C1)CC(=O)O | C9H10O2
